US04563485
Samples of these materials were placed in an aqueous solution of a soluble nalidixic acid derivative salt, illustratively a 30 micromole/ml solution of sodium norfloxacin, for a period of about an hour. The samples were removed from the solution and blotted dry. Then, the samples were placed in an aqueous solution of a soluble silver salt such as silver nitrate for a period of time sufficient to allow reaction between the norfloxacin salt and the metal salt so as to produce the metal salt of norfloxacin in, or on, the sample. In the actual tests performed, a period of about five to ten minutes was found to be sufficient.

reactant | nalidixic acid | CCN1C=C(C(=O)C2=C1N=C(C=C2)C)C(=O)O | C12H12N2O3
reactant | sodium norfloxacin | [Na].CCN1C=C(C(=O)C2=C1C=C(C(=C2)F)N3CCNCC3)C(=O)O
product | norfloxacin | CCN1C=C(C(=O)C2=C1C=C(C(=C2)F)N3CCNCC3)C(=O)O | C16H18FN3O3
